US03931239
A solution of 4,5-dimethyl-6-oxo-7,8-dihydro-7-bromo-7-isopropyl-6H-indeno[5,4-b]furan-2-carboxylic acid (0.01 mole) and lithium bromide (0.02 mole) in dimethylformamide (100 ml.) is heated in an inert atmosphere (nitrogen) at 95°C. for 2.0 hours; poured into ice water (300 ml.) to afford 4,5-dimethyl-6-oxo-7,8-dihydro-7-isopropylidene-6H-indeno[5,4-b]furan-2-carboxylic acid.

reactant | 4,5-dimethyl-6-oxo-7,8-dihydro-7-bromo-7-isopropyl-6H-indeno[5,4-b]furan-2-carboxylic acid | 0.01 mole | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)(C(C)C)Br)=O)C | C17H17BrO4
reactant | lithium bromide | 0.02 mole | [Br-].[Li+]
solvent | dimethylformamide | 100 ml | CN(C=O)C | C3H7NO
product | 4,5-dimethyl-6-oxo-7,8-dihydro-7-isopropylidene-6H-indeno[5,4-b]furan-2-carboxylic acid | CC1=C(C=2C(C(CC2C2=C1OC(=C2)C(=O)O)=C(C)C)=O)C | C17H16O4
